US05432182
A solution of 3-butyryl-4-chloro-8-methoxyquinoline (131.9 g, 0.5 mol) in dichloromethane (1 liter) was cooled to -78°, then boron tribromide (142 ml, 1.5 mol) added slowly over 10 minutes. The mixture was warmed slowly to 0°, stirred 2 hours, then allowed to warm to room temperature overnight. After recooling in ice the reaction was quenched cautiously with water, then the resulting solid filtered off and dried. This was heavily contaminated with boron-containing impurities, but was used without purification. Crude 3-butyryl-4-chloro-8-hydroxyquinoline (64 g) and 4-fluoro-2-methylaniline (16.7 ml, 0.15 mol) were dissolved in dioxan (300 ml), heated on a steam bath for 2 hours, then left to stand overnight. The dioxan was evaporated, dichloromethane and aqueous sodium bicarbonate added, the mixture stirred until all the solid had dissolved, then the organic layer dried and evaporated. Recrystallisation from methanol gave 3-butyryl-4-(4-fluoro-2-methylphenylamino)-8-hydroxy-quinoline (37 g), m.p. 121°-122°.

reactant | 3-butyryl-4-chloro-8-methoxyquinoline | 0.5 mol, 131.9 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
reactant | boron tribromide | 1.5 mol, 142 ml | B(Br)(Br)Br | BBr3
reactant | 3-butyryl-4-chloro-8-hydroxyquinoline | 64 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)O | C13H12ClNO2
reactant | 4-fluoro-2-methylaniline | 0.15 mol, 16.7 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
solvent | dichloromethane | 1 liter | ClCCl | CH2Cl2
solvent | dioxan | 300 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(4-fluoro-2-methylphenylamino)-8-hydroxy-quinoline | 37 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)F)C)O | C20H19FN2O2
